US06248768B1
Synthesis of 2-(3-isopropoxy-4-methoxyphenyl)-5-(1,2,4-triazol-1-yl)benzimidazole [Compound 1-a]
A 5.98 g portion of a known compound 3-isopropoxy-4-methoxybenzaldehyde was added to 4.49 g of 4-(1,2,4-triazol-1-yl)-o-phenylenediamine obtained in Reference Example 2, and the mixture was stirred for 18 hours in 37 ml of nitrobenzene while heating at 150° C. After cooling, nitrobenzene was evaporated under a reduced pressure. By crystallizing the resulting residue with ethyl acetate/hexane, 4.90 g (55%) of the title compound was obtained. Its physical property values are shown as the Compound No. 1 in Table 1.

reactant | 3-isopropoxy-4-methoxybenzaldehyde | C(C)(C)OC=1C=C(C=O)C=CC1OC | C11H14O3
reactant | 4-(1,2,4-triazol-1-yl)-o-phenylenediamine | 4.49 g | N1(N=CN=C1)C1=CC(=C(C=C1)N)N | C8H9N5
solvent | nitrobenzene | 37 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2-(3-isopropoxy-4-methoxyphenyl)-5-(1,2,4-triazol-1-yl)benzimidazole | 4.90 g, 55% | C(C)(C)OC=1C=C(C=CC1OC)C=1NC2=C(N1)C=CC(=C2)N2N=CN=C2 | C19H19N5O2
